US06414186B1
4-chloromethylphenylacetic acid was prepared in the same manner as in Example 1 except for using 30 g of 4-methyl phenylacetic acid instead of 2-methyl phenylacetic acid and using 90 g of monochlorobenzene.

reactant | 4-methyl phenylacetic acid | 30 g | CC1=CC=C(C=C1)CC(=O)O | C9H10O2
reactant | monochlorobenzene | 90 g | ClC1=CC=CC=C1 | C6H5Cl
product | 4-chloromethylphenylacetic acid | ClCC1=CC=C(C=C1)CC(=O)O | C9H9ClO2
